US04602029
Preparation of 2-(Methoxyethylamino)-propionitrile
To a stirred solution of 62.4 g (0.6 mole) sodium bisulfite in 200 ml water which had been cooled in an ice bath, 26.5 g (0.6 mole) acetaldehyde were added over 5 minutes. The ice bath was removed. The reaction mixture was stirred 2.5 hours; then 45 g (0.6 mole) 2-methoxyethylamine were added (with evolution of heat). The reaction mixture was stirred 2 hours; then 39 g (0.6 mole) potassium cyanide were added with heat evolution and the resulting mixture was stirred at ambient temperature. After about 30 minutes, a second phase separated; the reaction mixture was stirred 3 hours and then allowed to stand overnight. The reaction mixture was extracted with 150 ml methylene chloride. The methylene chloride extract was dried over magnesium sulfate and stripped to give 67.4 g of the light yellow oil. The oil was distilled under vacuum to give 60.6 g of the above-identified product as a clear, colorless oil, boiling at 60° C. at 0.20 mm.

reactant | sodium bisulfite | 0.6 mole, 62.4 g | S([O-])(O)=O.[Na+]
reactant | acetaldehyde | 0.6 mole, 26.5 g | C(C)=O | C2H4O
reactant | 2-methoxyethylamine | 0.6 mole, 45 g | COCCN | C3H9NO
reactant | potassium cyanide | 0.6 mole, 39 g | [C-]#N.[K+]
solvent | water | 200 ml | O | H2O
product | 2-(Methoxyethylamino)-propionitrile | 67.4 g | COCCNC(C#N)C | C6H12N2O
